US04987129
(2) Synthesis of 2,5-bis(acetoxymethyl)-7-hydroxy-2-methyl-s-triazolo[1,5-a]pyrimidine
In 300 ml of phosphorus oxychloride was added dropwise 28 ml of N,N-dimethylaniline, and 30.5 g of 2,5-bis(acetoxymethyl)-7-hydroxy-s-triazolo[1,5-a]pyrimidine was added to the mixture and the mixture was stirred at 50 ° C. for 1.5 hours. An oily residue obtained by removing phosphorus oxychloride was dissolved in 500 ml of chloroform and ice-cooled. After addition of crushed ice and water to the mixture and stirring thereof, a chloroform layer was separated, washed with water and dried over anhydrous magnesium sulfate. Then, the mixture was condensed. This was applied to a silica gel column chromatography (eluent chloroform) and fractions containing the title compound were condensed to obtain 14 g of the title compound as an oily product.

reactant | N,N-dimethylaniline | 28 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2,5-bis(acetoxymethyl)-7-hydroxy-s-triazolo[1,5-a]pyrimidine | 30.5 g | C(C)(=O)OCC1=NN2C(N=C(C=C2O)COC(C)=O)=N1 | C11H12N4O5
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | phosphorus oxychloride | 300 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,5-bis(acetoxymethyl)-7-hydroxy-2-methyl-s-triazolo[1,5-a]pyrimidine | C(C)(=O)OCC1(NN2C(N=C(C=C2O)COC(C)=O)=N1)C | C12H16N4O5
